US05364871
A solution of hydrogen chloride in dioxane (4N, 5 ml) was added slowly to a suspension of 4-(2-t-butoxycarbonylaminoacetylaminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole-(1.0 g) in methanol (5 ml) with cooling on an ice-water bath. The mixture was stirred for 24 hours with cooling on an ice-water bath. The resulting precipitate was collected by filtration. Recrystallization from a mixture of methanol and diisopropyl ether afforded 4-(2-aminoacetylaminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride (0.58 g).

reactant | hydrogen chloride | Cl | ClH
reactant | 4-(2-t-butoxycarbonylaminoacetylaminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole- | 1.0 g | C(C)(C)(C)OC(=O)NCC(=O)NCC=1SC=C(N1)C=1N=C(SC1)N=C(N)N | C15H21N7O3S2
solvent | dioxane | 4N, 5 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
product | 4-(2-aminoacetylaminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride | 0.58 g | Cl.Cl.NCC(=O)NCC=1SC=C(N1)C=1N=C(SC1)N=C(N)N | InChI=1S/C10H13N7OS2.2ClH/c11-1-7(18)14-2-8-15-5(3-19-8)6-4-20-10(16-6)17-9(12)13;;/h3-4H,1-2,11H2,(H,14,18)(H4,12,13,16,17);2*1H
